### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Quotient): define transtition map between ring or module quotient by powers of ideal

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Define transtition map between ring or module quotient by powers of ideal, both for developing API for IsAdicComplete

Co-authored-by: @jjdishere emailboxofjjd@163.com

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 1]
```diff
@@ -0,0 +1,121 @@
...
+import Mathlib.RingTheory.Ideal.Maps
+
+/-!
+# The quotient map from `R ⧸ I ^ m` to `R ⧸ I ^ n` where `m ≥ n`
+In this file we define the canonical quotient linear map from
+`M ⧸ I ^ m • ⊤` to `M ⧸ I ^ n • ⊤` and canonical quotient ring map from
+`R ⧸ I ^ m` to `R ⧸ I ^ n`. These definitions will be used in theorems
+related to `IsAdicComplete` to find a lift element from compatible sequences in the quotients.
+We also include results about the relation between quotients of submodules and quotients of
+ideals here. Since `Mathlib.LinearAlgebra.Quotient.Basic` and
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:19]: Can you move the comments about location of the file out of the "main" docstring? They're good comment, having them as `--comment` is OK I think, no need to have them in the webpage.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 2]
```diff
@@ -0,0 +1,121 @@
...
+@[simp]
+theorem mapQPow_mk {m n : ℕ} (le : n ≤ m) (x : M) :
+    mapQPow I M le (Quotient.mk x) = (Quotient.mk x : M ⧸ I ^ n • ⊤) := by
+  simp [mapQPow]
+
+@[simp]
+theorem mk_out_eq_mapQPowSucc {m n : ℕ} (le : n ≤ m) (x : M ⧸ (I ^ m • ⊤ : Submodule R M)) :
+    Quotient.mk x.out = mapQPow I M le x := by
+  nth_rw 2 [← Quotient.out_eq x]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:69]: Are we missing a lemma here (instead of the `rfl`?

**Review by riccardobrasca — COMMENTED** [review]
I've nothing against this, but I am worried that people start proving stuff about your map instead of the more general `factor`. Can you explain a little why you think this is really needed? Instead of, for example, working with an `abbrev` or something.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:69]: The `rfl` can be replaced by the following:
```lean
have : ⟦out x⟧ = (Ideal.Quotient.mk (I ^ m) x.out) := rfl
 simp only [this, factorPow_mk]
```
however I doesn't clearly know what is the missing thing for the first line, although I met several times.

Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:69]: Well, maybe the question is: do you really need this lemma? Using `out` seems weird.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:69]: Sorry that this lemma isn't proposed by me, I think this need @jjdishere to answer.

**Comment by Thmoas-Guan** [comment]
> I've nothing against this, but I am worried that people start proving stuff about your map instead of the more general `factor`. Can you explain a little why you think this is really needed? Instead of, for example, working with an `abbrev` or something.

For me I doesn't need it that urgently, the only cost of using the module version is a bit longer and more ugly proof. The real reason may need @jjdishere to answer.
Also there is an problem remaining: the version of `mapQPow` he proposed is only the special case for `AdicCompletion.transitionMap` for adjcent integer and the current version is the exact same, we may need some more discussion.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:69]: I mean, `x.out` is any lifting obtained by choice. it seems bad to have a lemma specific to this lifting. No objection to a lemma relative to *any* lifting (that is essentially the one before).

**Comment by Thmoas-Guan** [comment]
The result of the discussion is we decide to separate `AdicCompletion.transitionMap` out of `AdicCompletion.Basic` to this file, and leave the `AdicCompletion.transitionMap` and the ones for adjcent onns as abbreviations. What do you think?

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:70]: For me, I understand this lemma as the lemma to show `x.out` *is* a lifting. Without this lemma, we have to use the theorem [Quotient.out_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Quot.html#Quotient.out_eq). And it has a form that is simplifying from LHS to RHS, so I add a `@[simp]` tag here. (Note that [Quotient.out_eq](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Quot.html#Quotient.out_eq) also has a `@[simp]` tag.) Do you think this lemma is ok, but we should not tag it with "@[simp]"?

Comment (jjdishere) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:70]: About the usage of this lemma: In the definition of `IsPrecomplete`, if one has a compatible sequence `x n` in some ring `R`, then it has a limit `x` in `R`. I would like to build an API for "If one has a compatible sequence in `R/I^n`, then it has a limit `x` in `R`". The shortest way to prove this is to take arbitrary lifts `(x n).out` and show they form a compatible sequence in `R`. To show that these lifts map back to `x n`, one needs this lemma.

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:87]: I'm not really convinced that this is the right lemma to have. 
The shortest way is probably to obtain a lift from the surjectivity `R -> lim R/I^n` instead?
(and precomplete => surjective is not hard too. See somewhere in #20431)

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 3]
```diff
@@ -0,0 +1,165 @@
...
+variable (I M)
+
+/--
+The linear map from `M ⧸ I ^ m • ⊤` to `M ⧸ I ^ n • ⊤` induced by
+the natural inclusion `I ^ n • ⊤ → I ^ m • ⊤`.
+-/
+abbrev mapQPow {m n : ℕ} (le : m ≤ n) :
+    M ⧸ (I ^ n • ⊤ : Submodule R M) →ₗ[R] M ⧸ (I ^ m • ⊤ : Submodule R M) :=
+  liftQ (I ^ n • ⊤ : Submodule R M) (mkQ (I ^ m • ⊤ : Submodule R M))
+    ((ker_mkQ (I ^ m • ⊤ : Submodule R M)).symm ▸ (smul_mono_left (pow_le_pow_right le)))
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: We should use `Submodule.mapQ` here.

**Review by erdOne — COMMENTED** [review]
I think all these lemmas are about `Ideal.factor` and not specific to this.
Can you please add the missing lemmas to `Ideal.factor` so that all lemmas about `factorPow` are one-lemma term proofs? And then I would hope we don't need this anymore.

For the module side maybe an analogous `Submodule.factor` could be added? But it looks like every thing should work for general `mapQ`. OTOH `I ^ n • ⊤ <= I ^ m • ⊤` might be a nice lemma to have.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: Although I copied this from `AdicCompletion.TransitionMap` , I have only one small question : what is the advantage of `mapQ`?

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: It gets rid of `(ker_mkQ (I ^ m • ⊤ : Submodule R M)).symm ▸ ` and has the possibility of a more tailored api.

Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: comap_id is refl though. Does it not work if you remove it?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: sorry, it worked, my fault.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: Sorry I have anothor small question here, why `Ideal.Quotient.factor` need the two Ideals to be explicit? The `le` condition already gave the two? So in `Submodule.factor` how should I set the variables?

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 2 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:87]: > I'm not really convinced that this is the right lemma to have. The shortest way is probably to obtain a lift from the surjectivity `R -> lim R/I^n` instead? (and precomplete => surjective is not hard too. See somewhere in #20431)

I agree. The mathematical meaning of `out` is any lifting, but in Lean is one precise lifting (given by choice), and I think we very rarely want to speak about this specific one (of course the point is that if we are able to prove something about this one we can prove the same thing for any lifting, since morally choice only says it is a lifting and nothing more).

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: There two possibilities:
* it is just a mistake
* it helps Lean with unification

You can try to modify `Ideal.Quotient.factor` and see if you need `(I := ...)` somewhere. If not I am happy to change to implicit variables.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:58]: I would try it somewhere else.

**Comment by jjdishere** [comment]
> > I think all these lemmas are about `Ideal.factor` and not specific to this. Can you please add the missing lemmas to `Ideal.factor` so that all lemmas about `factorPow` are one-lemma term proofs? And then I would hope we don't need this anymore.
> > For the module side maybe an analogous `Submodule.factor` could be added? But it looks like every thing should work for general `mapQ`. OTOH `I ^ n • ⊤ <= I ^ m • ⊤` might be a nice lemma to have.
> 
> I agree that most of these simp lemmas are only the missing things in `Ideal.factor`. However I think that `Submodule.factor` should exist. After this we can wrap the special case `AdicCompletion.TransitionMap` and `AdicCompletion.TransitionMapSucc` along with the corresponding ring version into abbrev, what is your opinion @jjdishere ?

I agree. And I also support the idea of "one-lemma term proofs". Without suitable lemmas, these holes need several terms combined with `▸` to solve. If we allow these to be separate lemmas, life is much easier.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:74]: I agree with @erdOne . I'll remove this lemma and modify the proof depending on this.

File: Mathlib/LinearAlgebra/Quotient/Basic.lean [hunk 4]
```diff
@@ -243,6 +243,44 @@ theorem ker_liftQ_eq_bot' (f : M →ₛₗ[τ₁₂] M₂) (h : p = ker f) :
...
+@[simp]
+theorem factor_comp (H1 : p ≤ p') (H2 : p' ≤ p'') :
+    (factor H2).comp (factor H1) = factor (H1.trans H2) := by
+  ext
+  simp
+
+@[simp]
+theorem factor_comp_apply (H1 : p ≤ p') (H2 : p' ≤ p'') (x : M ⧸ p) :
+    factor H2 (factor H1 x) = factor (H1.trans H2) x := by
+  show (factor H2).comp (factor H1) x = factor (H1.trans H2) x
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/Quotient/Basic.lean:274]: Is it possible to get rid of this `show`?

File: Mathlib/RingTheory/Ideal/Quotient/Defs.lean [hunk 5]
```diff
@@ -160,11 +159,31 @@ def factor (H : S ≤ T) : R ⧸ S →+* R ⧸ T :=
...
+@[simp]
+theorem factor_comp (H1 : S ≤ T) (H2 : T ≤ U) :
+    (factor H2).comp (factor H1) = factor (H1.trans H2) := by
+  ext
+  simp
+
+@[simp]
+theorem factor_comp_apply (H1 : S ≤ T) (H2 : T ≤ U) (x : R ⧸ S) :
+    factor H2 (factor H1 x) = factor (H1.trans H2) x := by
+  show (factor H2).comp (factor H1) x = factor (H1.trans H2) x
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Quotient/Defs.lean:181]: Same here, can we get rid of the `show`?

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 6]
```diff
@@ -0,0 +1,97 @@
...
+Authors: Nailin Guan, Jiedong Jiang
+-/
+import Mathlib.LinearAlgebra.Quotient.Basic
+import Mathlib.RingTheory.Ideal.Quotient.Defs
+import Mathlib.Algebra.Algebra.Operations
+import Mathlib.RingTheory.Ideal.Operations
+import Mathlib.RingTheory.Ideal.Maps
+
+/-!
+# The quotient map from `R ⧸ I ^ m` to `R ⧸ I ^ n` where `m ≥ n`
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:13]: Can you add a comment somewhere saying that before adding lemmas to this file one has to check whether the corresponding (more general) lemma for `factor` exists?

File: Mathlib/RingTheory/Ideal/Quotient/Defs.lean (hunk 5 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Ideal/Quotient/Defs.lean:181]: Fixed.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean (hunk 6 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:13]: Thank you! I added it in the docstring.

**Comment by riccardobrasca** [comment]
LGTM, thanks. One last thing: can you a comment around `factor` (maybe in the docstring) explaining that in the very common case of `M^n` and `M^m` there is a dedicated API? Thanks!

bors d+

**Comment by Thmoas-Guan** [comment]
> dedicated

There are some name fix, can you have another look? Thanks.

**Comment by riccardobrasca** [comment]
LGTM, thanks!
